US08017611B2
3-amino-N-(4-fluoro-2-hydroxy-phenyl)pyrazine-2-carboxamide (1.6 g) and triphenylphosphine (5.07 g) were dissolved into pyridine (20 ml). The mixture was cooled to −10° C. in a ice-salt bath. Then, 2,2,2-trichloroacetonitrile (2.79 g) was added slowly. The resulting mixture was heated to reflux for 12 hours. The resulting mixture was diluted with ethyl acetate/methanol (4/1, 100 ml). The mixture was filtered by celite (diatomaceous earth), and the mixture was washed with 1M HCl. The organic layer was concentrated and the residue was purified by chromatography on silica gel (hexane/ethyl acetate/Methanol) to yield 3-(6-fluoro-1,3-benzoxazol-2-yl)pyrazin-2-amine (0.3 g). NMR Spectrum: (400 MHz, DMSOd6) 8.23 (s, 1H), 8.00 (s, 1H), 7.85 (m, 1H), 7.80 (m, 4H), 7.30 (m, 1H); Mass spectrum: M+H+ 231.

reactant | 3-amino-N-(4-fluoro-2-hydroxy-phenyl)pyrazine-2-carboxamide | 1.6 g | NC=1C(=NC=CN1)C(=O)NC1=C(C=C(C=C1)F)O | C11H9FN4O2
reactant | triphenylphosphine | 5.07 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroacetonitrile | 2.79 g | ClC(C#N)(Cl)Cl | C2Cl3N
solvent | ethyl acetate methanol | 100 ml | C(C)(=O)OCC.CO
product | 3-(6-fluoro-1,3-benzoxazol-2-yl)pyrazin-2-amine | 0.3 g | FC1=CC2=C(N=C(O2)C=2C(=NC=CN2)N)C=C1 | C11H7FN4O
